US06294558B1
4-Bromo-2-ethylphenol (step 1)
To a stirred solution of 2-ethylphenol (8.97 g, 73.4 mmol) in acetic acid (100 ml) was added hydrobromic acid (48 wt. % solution in water; 50 ml, 442 mmol), DMSO (50 ml, 705 mmol) dropwise, and the mixture was stirred for 1 hour. The mixture was diluted with water, and the whole was extracted with diethylether. The organic layer was washed with saturated NaHCO3 aqueous solution, brine, dried over MgSO4, and concentrated in vacuo to give title compound (15.2 g, 99% yield). The compound was used for next reaction without purification.

reactant | 2-ethylphenol | 73.4 mmol, 8.97 g | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | hydrobromic acid | 442 mmol, 50 ml | Br | BrH
reactant | DMSO | 705 mmol, 50 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-Bromo-2-ethylphenol | 15.2 g, 99% yield | BrC1=CC(=C(C=C1)O)CC | C8H9BrO
